US06833378B2
4-(1-Ethyl-prop-2-ynylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester
A mixture of 4-chloro-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester and 1-ethyl-propyl-amine in DMSO was heated at 130° C. overnight. The mixture was quenched with water, brine and extracted with ethyl acetate. The organic layer was dried and concentrated to dryness. The residue was purified through silica gel column chromatography to give the title compound. 1H NMR(CDCl3) d 8.26(d,1H), 6.87(s,2H), 6.26(s,1H), 4.11 (m,1H), 3.87(s,3H), 2.324(m,1H), 2.30(s,3H), 2.17s,3H), 2.08(s,6H), 1.92(q,2H), 1.16(t,3H) ppm.

reactant | 4-chloro-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1Cl)C)OC1=C(C=C(C=C1C)C)C)=O | C17H18ClNO3
reactant | 1-ethyl-propyl-amine | C(C)C(CC)N | C5H13N
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(1-Ethyl-prop-2-ynylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(C#C)CC)C)OC1=C(C=C(C=C1C)C)C)=O | C22H26N2O3
